US07378448B2
Sodium periodate (43 mg) was added to a solution of 4-[4-(phenethylamino-methyl)-phenylsulfanyl]-benzamide (73 mg, 0.2 mmol), water (10 mL), and methane sulfonic acid (39 mg, 0.4 mmol) while stirring at room temperature. After 1 and 2 hours, and an additional equivalent of sodium periodate (43 mg) and continue to stir at room temperature. Pour the reaction into saturated aqueous sodium bicarbonate solution then extract with ethyl acetate (3×50 mL). The combined ethyl acetate extracts were dried over sodium chloride/magnesium sulfate, filtered, and concentrated on a rotary evaporator to yield the crude product (60 mg). The crude product was purified by flash column chromatography on silica gel eluting with 10% aqueous ammonium hydroxide in ethanol and chloroform to yield 4-[4-(Phenethylamino-methyl)-benzenesulfinyl]-benzamide (26 mg): 1H NMR (DMSO-D6, 300.00 MHz): 8.98 (d, 1H, J=1.3 Hz), 8.46 (dd, 1H, J=7.9, 2.2 Hz), 8.23 (s, 1H), 8.09 (d, 1H, J=8.3 Hz), 7.75-7.66 (m, 4H), 7.49 (d, 2H, J=8.3 Hz), 7.30-7.15 (m, 5H), 3.76 (s, 2H), 2.75-2.70 (m, 4H); m/z=380.04(M+1); HPLC=100% @ 5.67 minutes (5/95 to 95/5 ACN/(0.1% TFA in water) over 10 minutes, Zorbax SB-Phenyl 4.6 mm×15 cm×5 micron, λ=254 nM.

reactant | Sodium periodate | 43 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | 4-[4-(phenethylamino-methyl)-phenylsulfanyl]-benzamide | 0.2 mmol, 73 mg | C(CC1=CC=CC=C1)NCC1=CC=C(C=C1)SC1=CC=C(C(=O)N)C=C1 | C22H22N2OS
reactant | methane sulfonic acid | 0.4 mmol, 39 mg | CS(=O)(=O)O | CH4O3S
reactant | sodium periodate | 43 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 10 mL | O | H2O
product | 4-[4-(Phenethylamino-methyl)-benzenesulfinyl]-benzamide | 26 mg | C(CC1=CC=CC=C1)NCC1=CC=C(C=C1)S(=O)C1=CC=C(C(=O)N)C=C1 | C22H22N2O2S
